US07544699B2
(2S)-(5-Chloro-2-heptyloxy-benzoylamino)-3-(4′-trifluoromethoxy-biphenyl-4-yl)-propionic acid
The title compound was then prepared from 3-(4-bromo-phenyl)-(2S)-(5-chloro-2-heptyloxy-benzoylamino)-propionic acid methyl ester (0.090 g, 0.176 mmol) and trifluoromethyl boronic acid (0.067 g, 0.352 mmol) with Pd (PPh3) (0.020 g, 0.0176 mmol) and 2 N Na2CO3 (0.528 ml, 0.528 mmol) as per general procedure D to yield the (2S)-(5-chloro-2-heptyloxy-benzoylamino)-3-(4′-trifluoromethoxy-biphenyl-4-yl)-propionic acid methyl ester which was further hydrolyzed as per general procedure C to give the title compound (0.050 g).

reactant | 3-(4-bromo-phenyl)-(2S)-(5-chloro-2-heptyloxy-benzoylamino)-propionic acid methyl ester | 0.176 mmol, 0.090 g | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)OCCCCCCC)=O)=O | C24H29BrClNO4
reactant | trifluoromethyl boronic acid | 0.352 mmol, 0.067 g | FC(F)(F)B(O)O | CH2BF3O2
reactant | Na2CO3 | 0.528 mmol, 2 N, 0.528 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd | 0.0176 mmol, 0.020 g | [Pd] | Pd
product | (2S)-(5-Chloro-2-heptyloxy-benzoylamino)-3-(4′-trifluoromethoxy-biphenyl-4-yl)-propionic acid | ClC=1C=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)C1)OCCCCCCC | C30H31ClF3NO5
